US07939531B2
A solution of 5-[7-(1-methyl-cyclohexanecarbonyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid (0.080 g, 0.16 mmol), BOP (0.071 g, 0.16 mmol) and 4-hydroxypiperidine (0.162 g, 1.6 mmol) in 2 mL of N,N-dimethylformamide was stirred overnight. The resulting black mixture was taken up in 30 mL of ethyl acetate and washed with three 20 mL portions of a sat. aq. NH4Cl solution, dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->50% EtOAc/hexanes afforded 0.032 g (34%) of [2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone as a tan oil.

reactant | 5-[7-(1-methyl-cyclohexanecarbonyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid | 0.16 mmol, 0.080 g | CC1(CCCCC1)C(=O)C1=CN(C2=NC=C(N=C21)C2=CC=C(S2)C(=O)O)COCC[Si](C)(C)C | C25H33N3O4SSi
reactant | BOP | 0.16 mmol, 0.071 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-hydroxypiperidine | 1.6 mmol, 0.162 g | OC1CCNCC1 | C5H11NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | [2-[5-(4-hydroxy-piperidine-1-carbonyl)-thiophen-2-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | 0.032 g, 34% | OC1CCN(CC1)C(=O)C1=CC=C(S1)C=1N=C2C(=NC1)N(C=C2C(=O)C2(CCCCC2)C)COCC[Si](C)(C)C | C30H42N4O4SSi
